US05317036
3. Synthesis of dimethylsilylbis(indenyl) zirconium dichloride
A solution of 51 g (440 mmol) indene in 200 ml THF under N2 was cooled in an ice bath. Slowly, 185 ml n- BuLi/hexanes (2.5 M) were added, turning the pale yellow solution red-brown. The solution was stirred for 2.5 hours, then cooled to -78° C. To this solution were added 27.1 g (210 mmol) dichlorodimethylsilane. The red solution was stirred for 64 hours at ambient temperature, followed by reflux for one hour. The ligand solution was washed with 0.6 M aqueous NaCl solution, separated, combined with ether washings, dried with anhydrous MgSO4, filtered, and reduced in vacuo to a dark-brown oil. The oil was dissolved in 100 ml hexanes and run down a column of silica gel/hexanes. All yellow fractions were recovered and reduced to a viscous orange liquid, from which 16.5 g were removed and dissolved in 250 ml THF. To this solution were added 48 ml (120 mmol) 2.5 M n-BuLi/hexanes at 0° C. This solution was stirred at ambient temperature for 1.5 hours, turning brown-black. This solution was transferred to a flask containing 21.3 g (56 mmol) zirconium tetrachloride-THF solvate in 200 ml THF. The resulting orange-brown slurry was stirred overnight. The slurry was then reduced in vacuo to 250 ml, then combined with 700 ml dry hexanes and stirred for about 0.5 hour, resulting in a black tar at bottom. The supernatant was decanted and stripped of all solvents. The tarry orange mass was then broken up in 100 ml hexanes and stirred overnight, followed by filtration and drying. Another 1.7 g metallocene were recovered by repetition of the hexane/THF washing step. The combined yield of crude dimethylsilylbis(indenyl) zirconium dichloride: 5.0 g (20%).

reactant | indene | 440 mmol, 51 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | dichlorodimethylsilane | 210 mmol, 27.1 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | zirconium tetrachloride THF | 56 mmol, 21.3 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4].C1CCOC1
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | dimethylsilylbis(indenyl) zirconium dichloride | [Cl-].[Cl-].C[SiH](C)[Zr+2](C1C=CC2=CC=CC=C12)C1C=CC2=CC=CC=C12 | InChI=1S/2C9H7.C2H7Si.2ClH.Zr/c2*1-2-5-9-7-3-6-8(9)4-1;1-3-2;;;/h2*1-7H;3H,1-2H3;2*1H;/q;;;;;+2/p-2
